US07816354B2
3-[4-(4-Methyl-piperazin-1-yl)-benzyl]-5-(R)-phenyl-oxazolidin-2-one
To a stirring suspension of palladium acetate (3 mg, 0.011 mmol), cesium carbonate (103 mg, 0.318 mmol), 3-(4-Iodo-benzyl)-5-(R)-phenyl)-oxazolidin-2-one (40 mg, 0.106 mmol), and Biphenyl-2-yl-dicyclohexyl-phosphane (4 mg, 0.011 mmol) in toluene was added 1-Methyl-piperazine (14 μL, 0.126 mmol). The mixture stirred at 100° C. for 3 hours and was then cooled to room temperature, diluted with water and extracted with ethyl acetate. The organics were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel, eluting with 30-40% ethyl acetate in hexanes. The title compound was isolated as a brown solid (14 mg, 38%). 1H NMR (300 MHz, CDCl3): δ 7.40-7.30 (m, 5H), 7.21 (d, 2H), 6.91 (d, 2H), 5.46 (t, 1H), 4.50-4.31 (q, 2H), 3.76 (t, 1H), 3.30 (t, 1H), 3.27-3.21 (m, 4H), 2.61-2.58 (m, 4H), 2.37 (s, 3H).

reactant | cesium carbonate | 0.318 mmol, 103 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | oxazolidin-2-one | 0.106 mmol, 40 mg | O1C(NCC1)=O | C3H5NO2
reactant | Biphenyl-2-yl-dicyclohexyl-phosphane | 0.011 mmol, 4 mg | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | 1-Methyl-piperazine | 0.126 mmol, 14 μL | CN1CCNCC1 | C5H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium acetate | 0.011 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-(4-Methyl-piperazin-1-yl)-benzyl]-5-(R)-phenyl-oxazolidin-2-one | CN1CCN(CC1)C1=CC=C(CN2C(O[C@@H](C2)C2=CC=CC=C2)=O)C=C1 | C21H25N3O2
